US06100264
A stirred solution of 1.3 g of ethyl 2-(2-carbethoxyphenyl)-4-oxo-4,5-dihydro-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-9-acetate in 45 ml of a 12 N aqueous hydrochloric acid solution is maintained at boiling temperature for 64 hours. After cooling, the insoluble matter is separated by filtration, washed 3 times with a total of 45 ml of distilled water and dried under reduced pressure (0.5 mm Hg; 0.07 kPa) at 45° C. 0.9 g of 2-(2-carboxyphenyl)-4-oxo-4,5-dihydro-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-9-acetic acid chloride is thus obtained in the form of a dark grey solid which decomposes without melting above 260° C. [1H NMR spectrum in DMSO-d6, T=300K, δ in ppm (250 MHz); 3.75 (2H, s, CH2), 4.05 (2H, s, CH2), 7.25 (1H, d, J=7 Hz, arom. CH), 7.40 (1H, t, J=7 Hz, arom. CH), between 7.50 and 8.10 (5H, m, 5 arom. CH), 8.45 (1H, s, imidazole CH), 13.00 (1H, broad s, NHCO)].

reactant | ethyl 2-(2-carbethoxyphenyl)-4-oxo-4,5-dihydro-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-9-acetate | 1.3 g | C(=O)(OCC)C1=C(C=CC=C1)C=1N=C2N(C3=C(NC2=O)C=2C=CC=C(C2C3)CC(=O)OCC)C1 | C26H23N3O5
reactant | hydrochloric acid | 12 N | Cl | ClH
product | 2-(2-carboxyphenyl)-4-oxo-4,5-dihydro-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-9-acetic acid chloride | 0.9 g | C(=O)(O)C1=C(C=CC=C1)C=1N=C2N(C3=C(NC2=O)C=2C=CC=C(C2C3)CC(=O)Cl)C1 | C22H14ClN3O4
